US07960409B2
Step 3: (S)-1-(1-{[2-cyano-4-(2-methyl-1,3-oxazol-4-yl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate
A solution of (S)-1-(1-{[4-(bromoacetyl)-2-cyanoquinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate (0.16 g, 0.25 mmol) and acetamide (16 mg, 0.28 mmol) in DMF (0.25 mL) was stirred at room temperature for 4 h then at 100° C. overnight. The reaction mixture was diluted in ethyl acetate, washed with water, brine and dried over MgSO4. The crude compound was purified on silica gel (eluting solvent: 2% to 5% acetone in dichloromethane) to give the desired titled product. 1H NMR (acetone-d6): δ 8.9 (d, 1H), 8.72 (s, 1H), 8.53 (s, 1H), 8.42 (d, 2H), 8.30 (d, 2H), 8.25 (s, 1H), 8.05 (s, 1H), 7.77 (d, 1H), 6.05 (s, 2H), 3.05 (m, 1H), 2.85 (m, 1H), 2.6 (s, 3H), 1.15 (t, 3H); and also the reduced compound 1-{1-[(4-acetyl-2-cyanoquinolin-7-yl)methyl]-1H-1,2,3-triazol-4-yl}-1-(trifluoromethyl)propyl 4-nitrobenzoate. 1H NMR (acetone-d6): δ 8.55 (m, 2H), 8.45 (m, 3H), 8.3 (d, 2H), 8.07 (s, 1H), 7.82 (d, 1H), 6.05 (s, 2H), 3.05 (m, 1H), 2.85 (s, 3H), 2.82 (m, 1H), 1.12 (t, 3H).

reactant | (S)-1-(1-{[4-(bromoacetyl)-2-cyanoquinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate | 0.25 mmol, 0.16 g | [N+](=O)([O-])C1=CC=C(C(=O)O[C@](CC)(C(F)(F)F)C=2N=NN(C2)CC2=CC=C3C(=CC(=NC3=C2)C#N)C(CBr)=O)C=C1 | C26H18BrF3N6O5
reactant | acetamide | 0.28 mmol, 16 mg | C(C)(=O)N | C2H5NO
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-1-(1-{[2-cyano-4-(2-methyl-1,3-oxazol-4-yl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)-1-(trifluoromethyl)propyl 4-nitrobenzoate | [N+](=O)([O-])C1=CC=C(C(=O)O[C@](CC)(C(F)(F)F)C=2N=NN(C2)CC2=CC=C3C(=CC(=NC3=C2)C#N)C=2N=C(OC2)C)C=C1 | C28H20F3N7O5
